US05616610
c) (R)-3-tert-Butylamino-8-fluoro-5-methoxy-3,4-dihydro-2H-1-benzopyran
(R)-8-Fluoro-3-hydroxylamino-5-methoxy-3,4-dihydro-2H-1-benzopyran (6.30 g, 29.6 mmol), anhydrous sodium sulfate (20 g) and acetone (500 mL) were refluxed under nitrogen for 4 days until TLC indicated a complete reaction. The salt was filtered off, ether (300 mL) was added to the filtrate and the solution, still containing finely suspended salt, was filtered through a sintered glass filter (grade 4). The clear filtrate was concentrated in vacuo. Dry (sieves 3 Å) benzene (50 mL) was added and the resulting solution was concentrated in vacuo (finally on the pump). The glassy residue was dissolved in dry (sieves 3 Å) benzene (150 mL) under nitrogen and the solution was cooled on an ice-bath (+4° C.). MeMgBr in Et2O (3.0M; 32.0 mL, 96 mmol) was added to the stirred solution above at a rate that kept the internal temperature below +5° C. (the reaction is exothermic). After the addition was complete (30 min) the solution was stirred at +4° C. for 0.5 h. The cooling bath was taken away and 15 min later the solution was poured on saturated NaHCO3 and ice (300 mL total). The mixture was washed repeatedly with ether (3×150 mL). The organic phases were combined, washed with brine, dried (Na2SO4), filtered and concentrated in vacuo. Flash chromatography on silica [eluent: EtOAc (2 and 10%) in CHCl3 ] gave 2.9 g. of the tert-butyl hydroxylamine derivative. The latter was dissolved in CS2 (100 mL) under nitrogen and the solution was stirred at room temperature for 4.5 h. The solvent was evaporated in vacuo to give an orange oil. Acetone (approx. 50 mL) was added and the solution was stirred for a short time (15 min) at room temperature (to precipitate elemental sulfur), then filtered and concentrated to give an oil. Flash chromatography on silica [eluent: EtOAc (10 to 25%) in hexane] gave 2.34 g (31% total yield) of the title compound as a yellow oil. [α]21D =-82.8° (C=1; CHCl3). GC-MS (70 eV) M=253 (53%).

reactant | (R)-8-Fluoro-3-hydroxylamino-5-methoxy-3,4-dihydro-2H-1-benzopyran | 29.6 mmol, 6.30 g | FC1=CC=C(C=2C[C@H](COC21)NO)OC | C10H12FNO3
reactant | sodium sulfate | 20 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | MeMgBr | C[Mg+].[Br-]
reactant | Et2O | 96 mmol, 3.0M, 32.0 mL | CCOCC | C4H10O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | tert-butyl hydroxylamine | C(C)(C)(C)NO | C4H11NO
solvent | CS2 | 100 mL | C(=S)=S | CS2
solvent | Acetone | approx. 50 mL | CC(=O)C | C3H6O
solvent | acetone | 500 mL | CC(=O)C | C3H6O
product | (R)-3-tert-Butylamino-8-fluoro-5-methoxy-3,4-dihydro-2H-1-benzopyran | C(C)(C)(C)N[C@H]1COC2=C(C1)C(=CC=C2F)OC | C14H20FNO2
